US08076336B2
Methyl 3-tert-butyl-5-hydroxymethylbenzoate (6.0 g) was reacted analogously to O5.043 with 1-bromo-2-methoxyethane to give methyl 3-tert-butyl-5-(2-methoxyethoxymethyl)benzoate. The latter was then converted to the title compound analogously to the sequence O4.043 to O2.043. 508 mg of the title compound were obtained.

reactant | Methyl 3-tert-butyl-5-hydroxymethylbenzoate | 6.0 g | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)CO | C13H18O3
reactant | 1-bromo-2-methoxyethane | BrCCOC | C3H7BrO
product | methyl 3-tert-butyl-5-(2-methoxyethoxymethyl)benzoate | C(C)(C)(C)C=1C=C(C(=O)OC)C=C(C1)COCCOC | C16H24O4
